US07601870B2
N-(2-Bromo-4-nitro-6-trifluoromethyl-phenyl)-3-cyclohexyl-propionamide
2-Bromo-4-nitro-6-trifluoromethyl-phenylamine (2.0 g) and cyclohexylpropionyl chloride (1.30 mL) were mixed in acetonitrile (10 mL) and heated to 150° C. for 10 minutes in a sealed microwave process vial. The reaction was cooled to 0° C., the product filtered off and washed with cold acetonitrile (50 mL) affording 0.97 g (33% yield) of the title compound as a yellow solid. The crude product was used without further purification. LC-MS (m/z) 424 (MH+); tR=3.53, (UV, ELSD) 95%, 99%. 1H NMR (500 MHz, DMSO-d6): 0.88 (m, 2H), 1.17 (m, 3H), 1.28 (m, 1H), 1.51 (m, 2H), 1.68 (m, 5H), 2.38 (t, 2H), 8.45 (d, 1H), 8.82 (d, 1H), 10.17 (s, 1H).

reactant | 2-Bromo-4-nitro-6-trifluoromethyl-phenylamine | 2.0 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)N | C7H4BrF3N2O2
reactant | cyclohexylpropionyl chloride | 1.30 mL | C1(CCCCC1)CCC(=O)Cl | C9H15ClO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(2-Bromo-4-nitro-6-trifluoromethyl-phenyl)-3-cyclohexyl-propionamide | 0.97 g, 33% yield | BrC1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)NC(CCC1CCCCC1)=O | C16H18BrF3N2O3
